US04157347
N-Cyano-N'-(2-propyn-1-yl)-S-benzyl Isothiourea
Dibenzyl cyanodithioimidocarbonate [prepared by the procedure described in Ann., 355, 196 (1907)] is reacted with about an equimolar amount of propargylamine according to the general procedure of Example 14, and the title product is thereby produced.

reactant | Dibenzyl cyanodithioimidocarbonate | C(#N)N=C(SCC1=CC=CC=C1)SCC1=CC=CC=C1 | C16H14N2S2
reactant | propargylamine | C(C#C)N | C3H5N
product | N-Cyano-N'-(2-propyn-1-yl)-S-benzyl Isothiourea | C(#N)NC(SCC1=CC=CC=C1)=NCC#C | C12H11N3S
